US07371749B2
2-{[(2-Methoxy-ethyl)-methyl-amino]-methyl}-3-methyl-3H-imidazole-4-carboxylic acid (4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide
To a solution of 4-methoxy-7-morpholin-4-yl-benzothiazol-2-ylamine (220 mg, 0.83 mmol) in dry tetrahydrofurane (10 ml) at −70° C. is slowly added a solution of tert.butyllithium (1.1 ml of a 1.5 M solution in pentane corresponding to 1.65 mmol) and the remaining suspension slowly warmed to about −30° C. At this time, a solution of 2-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-3-methyl-3H-imidazole-4-carboxylic acid phenyl ester (252 mg, 0.83 mmol) in tetrahydrofurane (4 ml) was added and the mixture stirred for 1 h at room temperature. The reaction mixture was treated with saturated aqueous ammonium chloride solution (10 ml) followed by ethyl acetate (20 ml) and the formed precipitate collected. The phases were separated and the aqueous phase extracted three times with ethyl acetate. The combined organic layers were extracted twice with water, dried with magnesium sulfate and evaporated to dryness to yield another batch of raw product. Flash-chromatography on silica (eluent trichloromethane containing 30% of ethyl acetate) yielded the title compound as white solid (31% yield). MS: m/e=475(M+H+), mp 176-178° C.

reactant | 4-methoxy-7-morpholin-4-yl-benzothiazol-2-ylamine | 0.83 mmol, 220 mg | COC1=CC=C(C2=C1N=C(S2)N)N2CCOCC2 | C12H15N3O2S
reactant | tert.butyllithium | C(C)(C)(C)[Li]
reactant | 2-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-3-methyl-3H-imidazole-4-carboxylic acid phenyl ester | 0.83 mmol, 252 mg | C1(=CC=CC=C1)OC(=O)C=1N(C(=NC1)CN(C)CCOC)C | C16H21N3O3
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | tetrahydrofurane | 10 ml | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
solvent | tetrahydrofurane | 4 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 2-{[(2-Methoxy-ethyl)-methyl-amino]-methyl}-3-methyl-3H-imidazole-4-carboxylic acid (4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide | 31% yield | COC1=CC=C(C2=C1N=C(S2)NC(=O)C=2N(C(=NC2)CN(C)CCOC)C)N2CCOCC2 | C22H30N6O4S
